US08536179B2
1-cyclopentyl-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-methyl-6-(6-(piperazin-1-yl)pyridin-3-yl)-1H-indole-4-carboxamide
To a 30 mL microwave vial were added 6-bromo-1-cyclopentyl-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-methyl-1H-indole-4-carboxamide (80 mg, 0.175 mmol), 1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine (65.9 mg, 0.228 mmol), 1,2-Dimethoxyethane (DME) (3 mL), Water (1.000 mL) and sodium carbonate (0.263 mL, 0.526 mmol), and the mixture was degassed for 5 min by bubbling nitrogen. PdCl2(dppf)-CH2Cl2 adduct (11.45 mg, 0.014 mmol) was added and the tube was sealed. The mixture was irradiated (microwave) at 140° C. for 10 min. The mixture was concentrated and the residue was taken up into MeOH and filtered. The filtrate was purified using reverse-phase HPLC (eluent: 25% ACN/H2O, 0.1% NH4OH to 60% ACN/H2O, 0.1% NH4OH) to give 72 mg of product as off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.65-1.89 (m, 6H), 2.08-2.19 (m, 8H), 2.24 (s, 3H), 2.76-2.84 (m, 4H), 3.40-3.48 (m, 4H), 4.35 (d, J=5.05 Hz, 2H), 4.92-5.04 (m, 1H), 5.87 (s, 1H), 6.88 (d, J=8.84 Hz, 1H), 7.19 (d, J=1.26 Hz, 1H), 7.25 (s, 1H), 7.74 (d, J=1.26 Hz, 1H), 7.91 (dd, J=8.84, 2.53 Hz, 1H), 8.15 (t, J=5.05 Hz, 1H), 8.51 (d, J=2.53 Hz, 1H); LCMS: 539.8 (MH+).

reactant | 6-bromo-1-cyclopentyl-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-methyl-1H-indole-4-carboxamide | 0.175 mmol, 80 mg | BrC=1C=C(C=2C(=CN(C2C1)C1CCCC1)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C23H26BrN3O2
reactant | 1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)piperazine | 0.228 mmol, 65.9 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCNCC1)C | C15H24BN3O2
reactant | 1,2-Dimethoxyethane | 3 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 0.526 mmol, 0.263 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.014 mmol, 11.45 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | Water | 1.000 mL | O | H2O
product | 1-cyclopentyl-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-3-methyl-6-(6-(piperazin-1-yl)pyridin-3-yl)-1H-indole-4-carboxamide | 72 mg | C1(CCCC1)N1C=C(C=2C(=CC(=CC12)C=1C=NC(=CC1)N1CCNCC1)C(=O)NCC=1C(NC(=CC1C)C)=O)C | C32H38N6O2
